US05639860
In 5 mg of DMP was dissolved 0.33 g of t-Boc-Trp(CHO)-OH, 0.17 g of sodium hydrogen carbonate was added. The solution was then stirred. To the mixture was added 1.08 g (5 mmol) of p-nitrobenzyl bromide, and stirring was effected at room temperature for 24 hours. Water and ethyl acetate were added to the reaction solution. The mixture was shaken, and the organic layer was recovered and the solvent was evaporated. The residue was purified with a silica gel column (manufactured by Merck Co., Kieselgel 60, 50 g, elution with hexane:ethyl acetate=6:4), to obtain 0.2 g of t-Boc-Trp(CHO)-OBzl (NO2). The peptide was dissolved in 5 ml of DMF, 0.5 ml of piperidine was added thereto, and the mixture was stirred at 0° C. for 1.5 hours. The solvent was evaporated under reduced pressure, 0.5 ml of 98% formic acid was added thereto, and the mixture was stirred at room temperature for 4 hours. About 30 ml of ether was added to obtain a precipitate. The precipitate was filtered and dried to obtain 0.16 g of H-Trp-OBzl (NO2).

reactant | sodium hydrogen carbonate | 0.17 g | C(O)([O-])=O.[Na+]
reactant | p-nitrobenzyl bromide | 5 mmol, 1.08 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | t-Boc-Trp(CHO)-OH | 0.33 g | N([C@@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)O)C(=O)OC(C)(C)C | C17H20N2O5
product | t-Boc-Trp(CHO)-OBzl | 0.2 g | N([C@@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C24H26N2O5
